US07897631B2
4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride (0.066 g, 0.384 mmol) was reacted with 3-azidomethyl-furan (0.057 g, 0.461 mmol) following the general procedure for click reactions outlined above to produce 4-[2-(1-Furan-3-ylmethyl-1H-[1,2,3]triazol-4-yl)-ethyl]-1H-imidazol-2-ylamine hydrochloride (0.061 g, 54%) as a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ 7.70 (s, 1H), δ 7.61 (s, 1H), δ 7.46 (s, 1H), δ 6.42 (s, 1H), δ 6.38 (s, 1H), δ 5.41 (s, 2H), δ 2.95 (t, 2H), δ 2.83 (t, 2H) ppm; 13C (75 MHz, CD3OD) δ 146.3, 144.2, 141.6, 141.5, 126.5, 122.3, 120.2, 109.9, 109.1, 44.8, 24.2, 23.9 ppm; HRMS (ESI) calcd for C12H14N6O (M+) 259.1301. found 259.1306.

reactant | 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.384 mmol, 0.066 g | Cl.C(CC#C)C=1N=C(NC1)N
reactant | 3-azidomethyl-furan | 0.461 mmol, 0.057 g | N(=[N+]=[N-])CC1=COC=C1 | C5H5N3O
product | 4-[2-(1-Furan-3-ylmethyl-1H-[1,2,3]triazol-4-yl)-ethyl]-1H-imidazol-2-ylamine hydrochloride | 0.061 g, 54% | Cl.O1C=C(C=C1)CN1N=NC(=C1)CCC=1N=C(NC1)N | InChI=1S/C12H14N6O.ClH/c13-12-14-5-10(15-12)1-2-11-7-18(17-16-11)6-9-3-4-19-8-9;/h3-5,7-8H,1-2,6H2,(H3,13,14,15);1H
